US06919404B2
2-Methyl-acrylic acid 6-{4-[2-(4-tridecafluorohexyl-phenoxycarbonyl)-vinyl]-phenoxy}-hexyl ester, Addition Monomer 6
2-Methyl-acrylic acid 6-[4-(2-carboxy-vinyl)-phenoxy]-hexyl ester (1.0 g, 3 mmol), 4-heptadecafluorooctyl-phenol (1.36 gm, 3.3 mmol) and dimethylaminopyridine (0.29 gm, 2.4 mmol) were dissolved in 10 ml of dichloromethane and cooled in an ice bath. To this was added dicyclohexylcarbodiimide (0.68 g, 3.3 mmol). The solution was allowed to react for 4 h, at which time the dichloromethane was removed under reduced pressure. The mixture was dissolved in ethyl acetate (50 ml) and filtered. The ethyl acetate was washed with 1M HCl (2×20 ml), water (2×20 ml), 5% NaOH (2×20 ml) and brine and then dried with magnesium sulfate and concentrated. Recrystallization from 15% ethyl acetate in hexane gave 1.25 g of product. H1 NMR (CDCl3): 7.85 (d, 1H, J=15.8 Hz), 7.65 (d, 2H, J=8.5 Hz), 7.55 (d, 2H, J=8.9 Hz), 7.35 (d, 2H, J=8.7 Hz), 6.94 (d, 2H, J=8.9 Hz), 6.50 (d, 1H, J=16.1 Hz), 6.1 (m, 1H), 5.56 (m, 1H), 4.17 (m, 2H), 4.00 (m, 2H), 1.95 (m, 3H), 1.9-1.4 (m, 8H).

reactant | 2-Methyl-acrylic acid 6-[4-(2-carboxy-vinyl)-phenoxy]-hexyl ester | 3 mmol, 1.0 g | C(=O)(O)C=CC1=CC=C(OCCCCCCOC(C(=C)C)=O)C=C1 | C19H24O5
reactant | 4-heptadecafluorooctyl-phenol | 3.3 mmol, 1.36 gm | FC(C(C(C(C(C(C(C1=CC=C(C=C1)O)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C14H5F17O
reactant | dimethylaminopyridine | 2.4 mmol, 0.29 gm | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | dicyclohexylcarbodiimide | 3.3 mmol, 0.68 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-Methyl-acrylic acid 6-{4-[2-(4-tridecafluorohexyl-phenoxycarbonyl)-vinyl]-phenoxy}-hexyl ester | 1.25 g | FC(C(C(C(C(C1=CC=C(OC(=O)C=CC2=CC=C(OCCCCCCOC(C(=C)C)=O)C=C2)C=C1)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C31H27F13O5
